US06586633B1
Production of N-Cinnamyl Methylamine
Triethylamine (0.66 g; 6.55 mmol) was added to 40% solution of methylamine in methanol (20 ml). While the mixture was stirred at room temperature, cinnamyl chloride (1.00 g; 6.55 mmol) was added dropwise. After completion of the addition, the mixture was stirred for 20 hours at room temperature, and excess methylamine and methanol were removed under reduced pressure. The residue was taken up in a mixture of diethyl ether and 2N hydrochloric acid (100 ml-100 ml), and the aqueous layer was neutralized with aqueous sodium hydroxide solution, followed by extraction with chloroform (100 ml). The organic layer was washed with saturated aqueous sodium bicarbonate solution and then with saturated brine, and dried over sodium sulfate. The solvent was evaporated under reduced pressure, to thereby yield 0.80 g of the target compound as yellow oily matter (yield: 83.0%).

reactant | Triethylamine | 6.55 mmol, 0.66 g | C(C)N(CC)CC | C6H15N
reactant | methylamine | CN | CH5N
reactant | cinnamyl chloride | 6.55 mmol, 1.00 g | C(C=CC1=CC=CC=C1)Cl | C9H9Cl
solvent | methanol | 20 ml | CO | CH4O
product | N-Cinnamyl Methylamine | yield: 83.0% | C(C=CC1=CC=CC=C1)NC | C10H13N
